US09102692B2
[5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-hydroxy-1H-indol-2-yl)-methanone (21 mg, 0.056 mmol), toluene-4-sulfonic acid oxetan-3-yl ester (19 mg, 0.084 mmol), and potassium carbonate (13 mg, 0.095 mmol) were dissolved in anhydrous N,N-dimethylformamide (DMF), and heated at 80° C. with stirring under a nitrogen atmosphere for six days. After cooling to room temperature, the reaction mixture was combined with water, and extracted with an ethyl acetate/methanol (10/1) solution. The organic layer was isolated, washed with water, and dried over anhydrous magnesium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (dichloromethane/methanol=100/3) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-(oxetan-3-yloxy)-1H-indol-2-yl]-methanone as a yellow solid (6.9 mg, 29%).

reactant | [5-Amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(6-hydroxy-1H-indol-2-yl)-methanone | 0.056 mmol, 21 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC(=CC=C2C1)O | C20H16N6O2
reactant | toluene-4-sulfonic acid oxetan-3-yl ester | 0.084 mmol, 19 mg | O1CC(C1)OS(=O)(=O)C1=CC=C(C=C1)C | C10H12O4S
reactant | potassium carbonate | 0.095 mmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-[6-(oxetan-3-yloxy)-1H-indol-2-yl]-methanone | 6.9 mg, 29% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC(=CC=C2C1)OC1COC1 | C23H20N6O3
